US04118511
1-Methoxy-N,N-dimethyl-4-(1-naphthyloxy)-2-butanamine (1; Ar = 1-naphthyl, and R1, R2 and R3 = CH3).
N-[1-(Methoxymethyl)-3-(1-naphthyloxy)propyl]-N-methylformamide, described in Example 8, is reduced with LiAlH4 in the manner described in Example 4 to give the title compound, nmr (CDCl3) δ 2.05 (m, 2H), 2.35 (s, 6H), 3.0 (s, 1H), 3.35 (s, 3H), 3.5 (m, 2H), 4.25 (t, J = 5.5Hz, 2H) and 6.75-8.4 (7H).

reactant | N-[1-(Methoxymethyl)-3-(1-naphthyloxy)propyl]-N-methylformamide | COCC(CCOC1=CC=CC2=CC=CC=C12)N(C=O)C | C17H21NO3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 1-Methoxy-N,N-dimethyl-4-(1-naphthyloxy)-2-butanamine | COCC(CCOC1=CC=CC2=CC=CC=C12)N(C)C | C17H23NO2
